US04230623
180 G. of zinc powder are added portionwise while stirring over a period of 5 hours to a solution of 194 g. of 4'-methoxy-4-methyl-4-nitro-3-(2-thienyl)-valerophenone in 400 ml. of ethanol and 400 ml. of formic acid. The temperature is held at 48°-50° C. during this addition. The zinc sludge is then filtered off and the filtrate strongly concentrated under reduced pressure. The residue is taken up in water and made alkaline with 3-N sodium hydroxide. The mixture is extracted with methylene chloride, the organic phase washed with water, dried over sodium sulfate and evaporated under reduced pressure. The oily residue is chromatographed on silica gel, elution being carried out firstly with pure benzene and then with benzene/acetone mixtures with increasing acetone content (up to 50% acetone). There is obtained 2-(p-methoxy-phenyl)-5,5-dimethyl-4-(2-thienyl)-1-pyrroline which melts at 84° C. after recrystallization from n-hexane.

reactant | 4'-methoxy-4-methyl-4-nitro-3-(2-thienyl)-valerophenone | COC1=CC=C(C=C1)C(CC(C(C)([N+](=O)[O-])C)C=1SC=CC1)=O | C17H19NO4S
reactant | ethanol | C(C)O | C2H6O
catalyst | zinc | [Zn] | Zn
solvent | formic acid | C(=O)O | CH2O2
product | 2-(p-methoxy-phenyl)-5,5-dimethyl-4-(2-thienyl)-1-pyrroline | COC1=CC=C(C=C1)C1=NC(C(C1)C=1SC=CC1)(C)C | C17H19NOS
